US07157464B2
Synthesis of 2-(3-Amino-4-bromo-5-phenyl-pyrazol-1-yl)-1-[4-(4-chloro-3-methoxyphenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 4-Bromo-5-phenyl-1H-pyrazol-3-ylamine, K2CO3, 2-Chloro-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/4) afforded the title compound as white solid. 1H NMR (400 MHz, CDCl3): 7.78–7.84 (d, 2H), 7.32–7.42 (m, 3H), 7.18–7.22 (d, 1H), 6.44–6.48 (d, 1H), 6.36–6.42 (dd, 1H), 4.94 (s, 2H), 4.28 (s, 2H), 3.88 (s, 3H), 3.76–3.86 (m, 4H), 3.12–3.18 (m, 4H). 13C NMR (400 MHz, CDCl3): 164.6, 154.8, 150.2, 144.6, 130, 128.2, 128, 126.4, 109.2, 102, 56, 51, 50, 49.6, 45.6, 42.

reactant | 4-Bromo-5-phenyl-1H-pyrazol-3-ylamine | BrC=1C(=NNC1C1=CC=CC=C1)N | C9H8BrN3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)OC | C13H16Cl2N2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3-Amino-4-bromo-5-phenyl-pyrazol-1-yl)-1-[4-(4-chloro-3-methoxyphenyl)-piperazin-1-yl]-ethanone | NC1=NN(C(=C1Br)C1=CC=CC=C1)CC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)OC | C22H23BrClN5O2
